US08138173B2
Thionyl chloride (1.0 mL) and DMF (1.0 mL) were combined and added dropwise to a mixture of 2-phenyl-1-(2-piperidin-4-ylethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one (200 mg, 0.537 mmol) and dichloromethane (10 mL) at 0° C. The resulting suspension was stirred 5 minutes at 0° C. before warming to ambient temperature and stirring 55 minutes. The suspension was concentrated under reduced pressure to afford a light yellow oil that was stirred in acetonitrile and filtered to obtain a white solid. The solid was combined with additional acetonitrile and concentrated under reduced pressure to afford 100 mg of 4-chloro-2-phenyl-1-(2-piperidin-4-ylethyl)-2H-pyrazolo[3,4-c]quinoline.HCl as a white powder, mp 194° C. MS (APCI) m/z 391 (M+H)+; Anal. calcd for C23H23ClN4.1.0H2O.1.0HCl: C, 62.02; H, 5.88; N, 12.58. Found: C, 61.91; H, 5.67; N, 12.48.

reactant | Thionyl chloride | 1.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
reactant | 2-phenyl-1-(2-piperidin-4-ylethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 0.537 mmol, 200 mg | C1(=CC=CC=C1)N1N=C2C(NC=3C=CC=CC3C2=C1CCC1CCNCC1)=O | C23H24N4O
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-chloro-2-phenyl-1-(2-piperidin-4-ylethyl)-2H-pyrazolo[3,4-c]quinoline | 100 mg | ClC1=NC=2C=CC=CC2C=2C1=NN(C2CCC2CCNCC2)C2=CC=CC=C2 | C23H23ClN4
